US05034417
A mixture of 4'-(2-amino-4-thiazolyl)-2'-(2,4-difluorophenylthio)methanesulfonanilide hydrobromide (1.2 g) and methanesulfonyl chloride (0.556 g) in pyridine (5 ml) was stirred at room temperature overnight. The reaction mixture was concentrated. The residue was dissolved in ethyl acetate, washed with dilute hydrochloric acid, dried and evaporated. The residue obtained was dissolved in methanol and treated with potassium hydroxide (0.4 g). The solution was concentrated and the residue was dissolved in water. The aqueous solution was acidified with dilute hydrochloric acid and extracted with chloroform. The extract was evaporated to dryness. The residue (1 g) was purified by column chromatography on silica gel (20 g) eluting with a mixture of toluene and ethyl acetate (1:1) followed by recrystallization from ethanol to give crystals of 2'-(2,4-difluorophenylthio)-4'-[2-(methanesulfonamido)-4-thiazolyl]methanesulfonanilide (0.26 g).

reactant | 4'-(2-amino-4-thiazolyl)-2'-(2,4-difluorophenylthio)methanesulfonanilide hydrobromide | 1.2 g | Br.NC=1SC=C(N1)C1=CC(=C(NS(=O)(=O)C)C=C1)SC1=C(C=C(C=C1)F)F
reactant | methanesulfonyl chloride | 0.556 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | potassium hydroxide | 0.4 g | [OH-].[K+]
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | methanol | CO | CH4O
product | 2'-(2,4-difluorophenylthio)-4'-[2-(methanesulfonamido)-4-thiazolyl]methanesulfonanilide | 0.26 g | FC1=C(C=CC(=C1)F)SC1=C(NS(=O)(=O)C)C=CC(=C1)C=1N=C(SC1)NS(=O)(=O)C | C17H15F2N3O4S4
